US05011839
4,6-Dichloro-5-(4-methoxy-1-naphthylmethylamino)-3(2H)pyridazinone (Compound No. 34)
A mixture comprising 800 mg of 4,5,6-trichloro-3(2H)pyridazinone, 2.68 g of 4-methoxy-1-naphthylmethylamine and 10 ml of ethanol, was refluxed under stirring for 4 hours. After cooling, precipitated crystals were collected by filtration. Then, the product was dissolved in hot ethyl acetate and treated by silica gel. The filtrate was concentrated, and precipitated crystals were collected by filtration to obtain 330 mg of the above identified compound as colorless crystals having a melting point of from 228° to 231° C.

reactant | 4,5,6-trichloro-3(2H)pyridazinone | 800 mg | ClC=1C(NN=C(C1Cl)Cl)=O | C4HCl3N2O
reactant | 4-methoxy-1-naphthylmethylamine | 2.68 g | COC1=CC=C(C2=CC=CC=C12)CN | C12H13NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,6-Dichloro-5-(4-methoxy-1-naphthylmethylamino)-3(2H)pyridazinone | ClC=1C(NN=C(C1NCC1=CC=C(C2=CC=CC=C12)OC)Cl)=O | C16H13Cl2N3O2
